US04922015
Methyl 2,6-dimethylphenoxy acetate
65 g of 2,6-dimethylphenol are dissolved in 200 ml of dry DMF and, under N2, 23.2 g of a 55% suspension of sodium hydride in mineral oil are added in portions. Then 50.4 ml of methyl bromoacetate are added dropwise with stirring, and the mixture is left to stand overnight. The precipitated salt is filtered off with suction, and the filtrate is concentrated. The residue is taken up in ethyl acetate, and the solution is extracted with water. The organic phase is dried over magnesium sulfate and concentrated. An oily liquid remains and is used directly in the following reaction.

reactant | 2,6-dimethylphenol | 65 g | CC1=C(C(=CC=C1)C)O | C8H10O
reactant | sodium hydride | [H-].[Na+]
reactant | methyl bromoacetate | 50.4 ml | BrCC(=O)OC | C3H5BrO2
solvent | DMF | 200 ml | CN(C)C=O | C3H7NO
product | Methyl 2,6-dimethylphenoxy acetate | CC1=C(C(=CC=C1)C)OCC(=O)OC | C11H14O3
